datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10][H].C[NH+:21]=[C:20]([O]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C)([O]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OC)CC)CC>>C(C([O-:21])C)(C(O[C:20](=[O:10])OC)CC)CC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(CC)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](CC)[S]1 10=20;20,21=21"
"[H][NH:10]C([H])C(CC)[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CC)[H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)[H])C1=CC=CC=C1>>CN([C:20]1(OC(C(C([O:21]1)CC)C)[H])[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[O:10]([K])C(CC)/C([H])=C([H])\C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C([H])=C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1[H])CC)CCCCCC.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CC)CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)[H])C>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)[H])[O-:10])C 21=20;20,10=10"
"[O:10]([K])C(C)C(C)N([C:20](OC)=[O:21])C>>[O-:21][C:20]1(OC)[O+:10]([K])C(C)C(C)N1C 10=20;20,21=21"
"[H][O:10][H].CC[NH+:21]=[C:20]([O]C)[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([O]C)[O]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C1=CC=CC=C1)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CC.[O-:21]C 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[S]C(C)C(CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C)C(CC)[O]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(CC)[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H:20][CH:21]1CCC[O+:23]=[CH:22]1.[F-:10]>>[H:20][F:10].C1C[CH:21]=[CH:22][O:23]C1 10=20;20,21=21,22;22,23=23"
"[O-:21][C:20]1(OCC)C(C)C(C)C([H])C(C)[NH+:10]1(C)>>[NH:10](C)C(C)C([H])C(C)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[S]2.C[S:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[O:10]([K])C(CCC)C([H])C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C([H])C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C([H])[S]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C([H])[S][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH]C(CC)C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C([H])[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"CCN([C:20]1(OC(C([O:21]1)C)CCCCCC)[O-:10])[H]>>CCN([C:20](=[O:10])OC(C([O-:21])C)CCCCCC)[H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[NH:10](C)C(C)C(C)/C(C)=C(C)\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)=C(C)C(C)C(C)[NH+:10]1(C) 10=20;20,21=21"
